US05637595
O-2-(4-Methylthiazol-5-yl)ethyl-6,7-dimethoxyisochroman-3-ol ether was prepared by the procedure of Example 2 employing 6,7-dimethoxyisochroman-3-one in lieu of undecanoic-gamma-lactone and 2-(4-methylthiazol-5-yl)ethanol in lieu of 3-(2-methylimidazo[4,5-c]pyrid-1-yl)propanol.

reactant | 6,7-dimethoxyisochroman-3-one | COC=1C=C2CC(OCC2=CC1OC)=O | C11H12O4
reactant | 2-(4-methylthiazol-5-yl)ethanol | CC=1N=CSC1CCO | C6H9NOS
reactant | 3-(2-methylimidazo[4,5-c]pyrid-1-yl)propanol | CC=1N(C2=C(C=NC=C2)N1)CCCO | C10H13N3O
product | O-2-(4-Methylthiazol-5-yl)ethyl-6,7-dimethoxyisochroman-3-ol ether | 9% yield | CC=1N=CSC1CCOC1OCC2=CC(=C(C=C2C1)OC)OC.CCOCC | InChI=1S/C17H21NO4S.C4H10O/c1-11-16(23-10-18-11)4-5-21-17-8-12-6-14(19-2)15(20-3)7-13(12)9-22-17;1-3-5-4-2/h6-7,10,17H,4-5,8-9H2,1-3H3;3-4H2,1-2H3
